US06372770B1
(d) 2-Bromo-4-chloro-6-(3,5-di-t-butyl-4-hydroxy-phenylacetyl-amino)-phenol
A solution of N,O-Di-(3,5-di-t-butyl-4-hydroxy-phenylacetyl)-6-amino-2-bromo-4-chloro-phenol (58.1 g, 89.8 mmol) in methanol (400 ml) and potassium carbonate (24.78 g, 180 mmol) was stirred at room temperature for 10 minutes. The methanol was removed in-vacuo, the residue treated with 2 N HCl (180 ml, 360 mmol), and extracted with ethyl acetate (300 ml). The organics were dried (Na2SO4), evaporated in-vacuo, and the residue suspended in petroleum ether. The precipitate was collected to give 37.44 g (88.9%) of the title compound which was suitable for the next step.

reactant | N,O-Di-(3,5-di-t-butyl-4-hydroxy-phenylacetyl)-6-amino-2-bromo-4-chloro-phenol | 89.8 mmol, 58.1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(=O)NC1=CC(=CC(=C1OC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)Br)Cl | C38H49BrClNO5
reactant | potassium carbonate | 180 mmol, 24.78 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 360 mmol, 2 N, 180 ml | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
product | 2-Bromo-4-chloro-6-(3,5-di-t-butyl-4-hydroxy-phenylacetyl-amino)-phenol | 37.44 g, 88.9% | BrC1=C(C(=CC(=C1)Cl)NC(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)O | C22H27BrClNO3
